US07320995B2
1-(4-methoxybenzyl)-2-hydroxymethyl-4-phenylimidazole
Treat a solution of 1-(4-methoxybenzyl)-2-formyl-4-phenylimidazole (1.75 g, 5.99 mmol) in CH2Cl2/MeOH (1:1, 60 mL) with NaBH4 (480 mg, 12.7 mmol) at room temperature for 15 minutes. Quench with H2O (50 mL), extract with CH2Cl2 (2×100 mL), dry (Na2SO4), and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, CH2Cl2/MeOH 20:1→7:1) to provide 1.69 g (96% yield). MS(ES+): m/z=295 (M+H)+

reactant | 1-(4-methoxybenzyl)-2-formyl-4-phenylimidazole | 5.99 mmol, 1.75 g | COC1=CC=C(CN2C(=NC(=C2)C2=CC=CC=C2)C=O)C=C1 | C18H16N2O2
reactant | NaBH4 | 12.7 mmol, 480 mg | [BH4-].[Na+]
solvent | CH2Cl2 MeOH | 60 mL | C(Cl)Cl.CO
product | 1-(4-methoxybenzyl)-2-hydroxymethyl-4-phenylimidazole | 96% yield | COC1=CC=C(CN2C(=NC(=C2)C2=CC=CC=C2)CO)C=C1 | C18H18N2O2
